US06521643B1
To a stirred solution of 3,4-dimethoxy-2-methylpyridine (1.53 g) in tetrahydrofuran (15 ml) was added a solution of n-butyllithium in n-hexane (1.63M, 7.36 ml) dropwise at −50° C. under a nitrogen atmosphere, and the mixture was warmed to 0° C. The mixture was cooled to −50° C., and N,N-dimethylacetamide (1.21 ml) was added dropwise. Then the mixture was warmed to room temperature, poured into a saturated aqueous ammonium chloride solution and extracted with ethyl acetate (100 ml×2). The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 50 g, 25% ethyl acetate in n-hexane) to give 1-(3,4-dimethoxypyridin-2-yl)propan-2-one (1.85 g).

reactant | 3,4-dimethoxy-2-methylpyridine | 1.53 g | COC=1C(=NC=CC1OC)C | C8H11NO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-dimethylacetamide | 1.21 ml | CN(C(C)=O)C | C4H9NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.63M, 7.36 ml | CCCCCC | C6H14
product | 1-(3,4-dimethoxypyridin-2-yl)propan-2-one | 1.85 g | COC=1C(=NC=CC1OC)CC(C)=O | C10H13NO3
